US08440662B2
Step 2: 4-Amino-N-(2-dimethylamino-ethyl)-N-methyl-benzamide
To a solution of N-(2-dimethylamino-ethyl)-N-methyl-4-nitro benzamide (4.5 g, 0.0179 mol) in MeOH (100 mL) was added Pd/C 10% (0.5 g) in portions and the Parr reaction vessel was purged with nitrogen for 10 min. The reaction vessel was fixed in Parr shaker at 60 psi pressure for 3 h. The reaction mixture was filtered through the Celite® pad and the filtrate was concentrated under reduced pressure to afford the title compound [4.0 g, 100%]; LC-MS (ESI): Calculated mass: 221.2; Observed mass: 222.1 [M+H]+ (RT: 0.17 min).

reactant | N-(2-dimethylamino-ethyl)-N-methyl-4-nitro benzamide | 0.0179 mol, 4.5 g | CN(CCN(C(C1=CC=C(C=C1)[N+](=O)[O-])=O)C)C | C12H17N3O3
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 4-Amino-N-(2-dimethylamino-ethyl)-N-methyl-benzamide | 4.0 g, 100% | NC1=CC=C(C(=O)N(C)CCN(C)C)C=C1 | C12H19N3O
